US06858638B2
5-Amino-3-iodo-1H-indazole can be obtained as described in Example 4 from 1 g of 3-iodo-5-nitro-1H-indazole, 20 ml of ethanol, 6.9 g of ferrous sulfate, 10.8 ml of distilled water and 8.2 ml of 32% aqueous ammonia. 230 mg of 5-amino-3-iodo-1H-indazole are thus obtained in the form of a yellow foam (Rf=0.12, silica gel thin layer chromatography, eluent: ethyl acetate/dichloromethane (2/8 by volume)).

reactant | 3-iodo-5-nitro-1H-indazole | 1 g | IC1=NNC2=CC=C(C=C12)[N+](=O)[O-] | C7H4IN3O2
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | water | 10.8 ml | O | H2O
reactant | ammonia | 8.2 ml | N | H3N
solvent | ethyl acetate dichloromethane | C(C)(=O)OCC.ClCCl
product | 5-amino-3-iodo-1H-indazole | 230 mg | NC=1C=C2C(=NNC2=CC1)I | C7H6IN3
